US07625902B2
To a mixture of (S)-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester (1.0 g), N-ethyl-diisopropylamine (0.43 mL) and 4-dimethylaminopyridine (0.14 g) in dichloromethane (15 mL) was added benzenesulfonyl chloride (0.35 mL) at 0° C. The mixture was stirred at ambient temperature for 3 h, a diluted aqueous solution of NaHCO3 was added, the phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried (Na2SO4), filtered and evaporated. The crude product was purified by column chromatography (SiO2, dichloromethane/methanol 98:2) to yield (S)-3-benzenesulfonyl-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester (1.08 g) as a white solid. MS: 576.8, ([M+H]+)

reactant | (S)-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester | 1.0 g | C(C1=CC=CC=C1)OC(=O)N1C(NC[C@H]1C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)=O | C24H28N4O4
reactant | N-ethyl-diisopropylamine | 0.43 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | benzenesulfonyl chloride | 0.35 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.14 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | (S)-3-benzenesulfonyl-5-[4-(2,5-dimethyl-phenyl)-piperazine-1-carbonyl]-2-oxo-imidazolidine-1-carboxylic acid benzyl ester | 1.08 g | C(C1=CC=CC=C1)OC(=O)N1C(N(C[C@H]1C(=O)N1CCN(CC1)C1=C(C=CC(=C1)C)C)S(=O)(=O)C1=CC=CC=C1)=O | C30H32N4O6S
